* cdac_64
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.include /repo/v2/analog/adc/adc_blocks.spice
.temp 27
.options reltol=1e-5 abstol=1e-14 vntol=1e-8 method=gear
VDD vdd 0 1.8
VCM cm 0 .9
VIP ip 0 .9
VIN inn 0 .9
VEN en 0 PWL(0 1.8 2.5u 1.8 2.501u 0)
VENB enb 0 PWL(0 0 2.5u 0 2.501u 1.8)
XSP ip tp en enb vdd 0 adc_tgate
XSN inn tn en enb vdd 0 adc_tgate
RP tp 0 1e15
RN tn 0 1e15
VBP0 bp0 0 PWL(0 .9 2.52u .9 2.521u 1.1)
VBN0 bn0 0 PWL(0 .9 2.52u .9 2.521u 0.7)
VBP1 bp1 0 PWL(0 .9 2.52u .9 2.521u 1.1)
VBN1 bn1 0 PWL(0 .9 2.52u .9 2.521u 0.7)
VBP2 bp2 0 PWL(0 .9 2.52u .9 2.521u 1.1)
VBN2 bn2 0 PWL(0 .9 2.52u .9 2.521u 0.7)
VBP3 bp3 0 PWL(0 .9 2.52u .9 2.521u 1.1)
VBN3 bn3 0 PWL(0 .9 2.52u .9 2.521u 0.7)
VBP4 bp4 0 PWL(0 .9 2.52u .9 2.521u 1.1)
VBN4 bn4 0 PWL(0 .9 2.52u .9 2.521u 0.7)
VBP5 bp5 0 PWL(0 .9 2.52u .9 2.521u 1.1)
VBN5 bn5 0 PWL(0 .9 2.52u .9 2.521u 0.7)
VBP6 bp6 0 PWL(0 .9 2.52u .9 2.521u 0.7)
VBN6 bn6 0 PWL(0 .9 2.52u .9 2.521u 1.1)
VBP7 bp7 0 PWL(0 .9 2.52u .9 2.521u 1.1)
VBN7 bn7 0 PWL(0 .9 2.52u .9 2.521u 0.7)
VBP8 bp8 0 PWL(0 .9 2.52u .9 2.521u 1.1)
VBN8 bn8 0 PWL(0 .9 2.52u .9 2.521u 0.7)
VBP9 bp9 0 PWL(0 .9 2.52u .9 2.521u 1.1)
VBN9 bn9 0 PWL(0 .9 2.52u .9 2.521u 0.7)
VBP10 bp10 0 PWL(0 .9 2.52u .9 2.521u 1.1)
VBN10 bn10 0 PWL(0 .9 2.52u .9 2.521u 0.7)
VBP11 bp11 0 PWL(0 .9 2.52u .9 2.521u 1.1)
VBN11 bn11 0 PWL(0 .9 2.52u .9 2.521u 0.7)
VDP dp 0 PWL(0 .9 2.52u .9 2.521u .7)
VDN dn 0 PWL(0 .9 2.52u .9 2.521u 1.1)
XCP tp bp11 bp10 bp9 bp8 bp7 bp6 bp5 bp4 bp3 bp2 bp1 bp0 dp adc_cdac12
XCN tn bn11 bn10 bn9 bn8 bn7 bn6 bn5 bn4 bn3 bn2 bn1 bn0 dn adc_cdac12
.control
set num_threads=1
set wr_singlescale
set wr_vecnames
set numdgt=12
tran 1n 3u
wrdata /repo/v2/analog/adc/results/cdac_64.tsv v(tp) v(tn)
quit
.endc
.end
